US04131681
4-Hydroxypiperidine (47.2 g) was added at room temperature to and dissolved in a methanolic sodium methoxide solution prepared from sodium metal (2.2 g) in dry methanol (100 ml). To the resultant solution was added methyl 5-chloro-2-oxo-3-benzothiazolineacetate (100 g), and the mixture was heated for 3 hours under reflux with stirring. The reaction mixture was left to cool, poured into ice water (500 ml) and stirred for 30 minutes. The precipitates were collected, washed with water and then dried to give 3-(4-hydroxypiperidino)carbonylmethyl-5-chloro-2-benzothiazolinone (102.5 g), which was recrystallized from 90% aqueous methanol to give colorless crystals, m.p. 180.1° C.

reactant | 4-Hydroxypiperidine | 47.2 g | OC1CCNCC1 | C5H11NO
reactant | sodium | 2.2 g | [Na] | Na
reactant | methyl 5-chloro-2-oxo-3-benzothiazolineacetate | 100 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)OC)C1 | C10H8ClNO3S
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 3-(4-hydroxypiperidino)carbonylmethyl-5-chloro-2-benzothiazolinone | 102.5 g | OC1CCN(CC1)C(=O)CN1C(SC2=C1C=C(C=C2)Cl)=O | C14H15ClN2O3S
